US04279637
PREPARATION OF 1METHYL-3-(4-PHENOXYPHENYL)-4-IMIDAZOLIN-2-ONE
N-(4-Phenoxyphenyl)-N'-(2,2-dimethoxyethyl)-N'-methylurea (5.0 grams, 0.015 mole), water (30 ml) and concentrated hydrochloric acid (3 ml) were charged into a glass reaction vessel fitted with a mechanical stirrer thermometer and condenser. The reaction mixture was refluxed for a period of about 15 minutes, cooled and extracted with ethyl acetate. The ethyl acetate solution was washed with dilute aqueous sodium bicarbonate and with portions of water and dried. The ethyl acetate was removed by mild warming under reduced pressure to yield a residue. This was recrystallized from ethyl acetate to yield the desired product 1-methyl-3-(4-phenoxyphenyl)-4-imidazolin-2-one as a solid having a melting point of 112° C.

reactant | N-(4-Phenoxyphenyl)-N'-(2,2-dimethoxyethyl)-N'-methylurea | 0.015 mole, 5.0 grams | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=O)N(C)CC(OC)OC | C18H22N2O4
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 1-methyl-3-(4-phenoxyphenyl)-4-imidazolin-2-one | CN1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C16H14N2O2
